US08536197B2
(90b) tert-Butyl 3-(benzyloxy)-4-oxopiperidine-1-carboxylate
A water/TFA mixed solution (1/1, 35 mL) was added to tert-butyl 3-(benzyloxy)-4,4-dimethoxypiperidine-1-carboxylate obtained in Example (90a) (4.99 g, 14.2 mmol), and the mixture was stirred at 60° C. for one hour. The reaction solution was concentrated to obtain crude 3-(benzyloxy)piperidin-4-one TFA salt as a brown oily substance. A 2 N aqueous sodium hydroxide solution (20 mL) was added to the crude 3-(benzyloxy)piperidin-4-one TFA salt, and a solution of di-tert-butyl dicarbonate (4.36 g, 20 mmol) in THF (10 mL) was added at room temperature. Following stirring for one hour, the reaction solution was diluted with water, followed by extraction with ethyl acetate. Then, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. Following concentration under reduced pressure, the residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=10/1, 5/1, 2/1) to obtain 3.81 g of the title compound as a light brown oily substance (88%).

reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
reactant | 3-(benzyloxy)piperidin-4-one TFA salt | OC(=O)C(F)(F)F.C(C1=CC=CC=C1)OC1CNCCC1=O
reactant | di-tert-butyl dicarbonate | 20 mmol, 4.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-Butyl 3-(benzyloxy)-4-oxopiperidine-1-carboxylate | 3.81 g | C(C1=CC=CC=C1)OC1CN(CCC1=O)C(=O)OC(C)(C)C | C17H23NO4
